US09193720B2
To a solution of 4-(trifluoromethyl)piperidine HCl (1.7 g, 8.97 mmol) and DIEA (3.13 mL, 17.9 mmol) in anhydrous CH3CN (15 mL) was added isopropyl 2-(5-bromo-4-chloro-2,6-dimethylpyridin-3-yl)-2-oxoacetate (3.0 g, 8.97 mmol) at rt. The resulting mixture was placed in a pre-heated oil bath (80° C.) and stirred for 24 h; cooled, diluted with ether, washed with water, brine, and dried (MgSO4). The crude product was charged (DCM) to a 80 g ISCO silica gel cartridge and gradient eluted (5-20% EtOAc/hexanes) using an Isolera chromatography station to give isopropyl 2-(5-bromo-2,6-dimethyl-4-(4-(trifluoromethyl)piperidin-1-yl)pyridin-3-yl)-2-oxoacetate 2.9 g (71%). 1H NMR (500 MHz, CDCl3) δ 5.25-5.20 (m, 1H), 3.54-3.51 (m, 2H), 3.15 (dt, J=12.5, 2.0 Hz, 2H), 2.87 (s, 3H), 2.57 (s, 3H), 2.30-2.23 (m, 1H), 2.02-1.99 (m, 2H), 1.79 (dq, J=12.4, 4.1 Hz, 2H) 1.43 (d, J=6.2 Hz, 6H). UPLC (M+H)=453.2.

reactant | 4-(trifluoromethyl)piperidine HCl | 8.97 mmol, 1.7 g | Cl.FC(C1CCNCC1)(F)F
reactant | DIEA | 17.9 mmol, 3.13 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | isopropyl 2-(5-bromo-4-chloro-2,6-dimethylpyridin-3-yl)-2-oxoacetate | 8.97 mmol, 3.0 g | BrC=1C(=C(C(=NC1C)C)C(C(=O)OC(C)C)=O)Cl | C12H13BrClNO3
solvent | CH3CN | 15 mL | CC#N | C2H3N
solvent | ether | CCOCC | C4H10O
product | isopropyl 2-(5-bromo-2,6-dimethyl-4-(4-(trifluoromethyl)piperidin-1-yl)pyridin-3-yl)-2-oxoacetate | 2.9 g, 71% | BrC=1C(=C(C(=NC1C)C)C(C(=O)OC(C)C)=O)N1CCC(CC1)C(F)(F)F | C18H22BrF3N2O3
